US06503907B2
3.8 g (10 mmol) 5-Benzyloxy-1-(4-bromo-phenyl)-1H-indole in 30 ml EtOAc and 10 ml EtOH were hydrogenated in the presence of 5% Pd/C. Column chromatography on silica gel in hexane/EtOAc 5:1 yielded 1.3 g (62%) 1-Phenyl-1H-indol-5-ol as colorless viscous oil, MS: 209 (M).

reactant | 5-Benzyloxy-1-(4-bromo-phenyl)-1H-indole | 10 mmol, 3.8 g | C(C1=CC=CC=C1)OC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)Br | C21H16BrNO
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
solvent | EtOH | 10 ml | CCO | C2H6O
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
catalyst | Pd/C | [Pd] | Pd
product | 1-Phenyl-1H-indol-5-ol | 1.3 g, 62% | C1(=CC=CC=C1)N1C=CC2=CC(=CC=C12)O | C14H11NO
